US07157447B2
(2-Bromo-5-fluoro-phenyl)-hydrazine hydrochloride.
To a mechanically stirred suspension of 2-bromo-5-fluoroaniline hydrochloride (94.7 g, 0.418 mol; obtained above) in a mixture of conc-HCl (250 mL) and water (250 mL) was added drop-wise a solution of sodium nitrite, NaNO2 (29 g, 0.420 mol) in water (60 mL) in a dry-ice/acetone bath, maintaining the bath temperature at −5–0° C. over a period of 10–15 min. Additional NaNO2 (1 g) was added and stirred at the same temperature for 5 min to obtain a clear solution. To this clear solution was added a solution of stannous chloride, SnCl2 (276.8 g, 1.46 mol) in conc-HCl (600 mL) drop-wise at 0–5° C. over a period of 30–40 min. A precipitate starts forming immediately after the addition. This thick mixture was stirred for another 1.5 h, and the precipitate was collected by suction-filtration, washed with a minimum amount of water (˜200 mL), then with diethyl ether, and dried in vacuo to obtain the title compound as an off-white powder: HPLC rt=0.73 min; LC/MS m/z 205 (M+H); 1H NMR (DMSO-d6, 500 MHz) δ ppm 6.78 (1H, dt, J=8.5, 3 Hz, 5-CH), 7.04 (1H, dd, J=11, 3 Hz, 3-CH), 7.60 (1H, dd, J=8.5, 6 Hz, 6-CH), 8.15 (1H, s, NH), 10.49 (3H, brs, NH3+); 13C NMR (DMSO-d6, 125.8 Hz) δ ppm 102.6 (d, J=28 Hz, 3-CH), 103.4 (d, J=2.6 Hz, 1-C), 109.0 (d, J=23 Hz, 5-CH), 133.8 (d, J=9.6 Hz, 6-CH), 144.0 (d, J=10.7 Hz, 2-C), 161.7 (d, J=243 Hz, 4-CF).

reactant | 2-bromo-5-fluoroaniline hydrochloride | 0.418 mol, 94.7 g | Cl.BrC1=C(N)C=C(C=C1)F
reactant | HCl | 250 mL | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | NaNO2 | 0.420 mol, 29 g | N(=O)[O-].[Na+]
reactant | NaNO2 | 1 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 1.46 mol, 276.8 g | Cl[Sn]Cl
reactant | HCl | 600 mL | Cl | ClH
solvent | water | 60 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | (2-Bromo-5-fluoro-phenyl)-hydrazine hydrochloride | Cl.BrC1=C(C=C(C=C1)F)NN | InChI=1S/C6H6BrFN2.ClH/c7-5-2-1-4(8)3-6(5)10-9;/h1-3,10H,9H2;1H
